US05064947
Next, 300 mg of the above product (S)-β-[(1-phenyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl)amino]benzenepropanol was dissolved in 15 ml CH2Cl2 followed by addition of 0.44 ml SOCl2. The reaction was heated to reflux for 3.5 hours. The solvent was then removed under a stream of nitrogen. The white solid was recrystallized from about 30% isopropyl alcohol/hexane followed by a second recrystallization from about 5% MeOH/butanone to yield 45 mg of (S)-2,7-dihydro-7-phenyl-2-(phenylmethyl)-3H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidine after drying under vacuum at 39° C. for 5 days (m.p. 255° C.).

reactant | (S)-β-[(1-phenyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl)amino]benzenepropanol | C1(=CC=CC=C1)N1N=CC=2C1=NC=NC2N[C@H](CO)CC2=CC=CC=C2 | C20H19N5O
reactant | SOCl2 | 0.44 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | (S)-2,7-dihydro-7-phenyl-2-(phenylmethyl)-3H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidine | 45 mg | C1(=CC=CC=C1)N1N=CC=2C=3N(C=NC21)C[C@@H](N3)CC3=CC=CC=C3 | C20H17N5
